US06930157B2
(2) 1-cyclopentadienyl-1-indenylcyclohexane
Indene (5.8 g, 50 mmole) was placed in a 250 ml round bottom flask with 50 ml of THF (tetrahydrofuran). 34.3 ml (1.6 M, 55 mmole) of n-butyl lithium (n-BuLi) was added into the solution under an ice bath. The mixture turned orange red. The ice bath was removed and the mixture was stirred for 3 hours. 6.7 g of 6,6-pentamethylenefulvene (46 mmole) was added gradually to the mixture. After stirring for 24 hours, 1 ml of water was added to the mixture to terminate the reaction. The reaction mixture was stripped under vacuum to remove solvent, washed with 100 ml of pentane, and filtered to remove the salt. The crude product (i.e., filtrate) was purified by column chromatography (the packing was 20 g of silica gel, the eluent was 100% pentane). The solution was then concentrated under reduced pressure to obtain a pale yellow liquid (8.3 g, yield=69%).

reactant | Indene | 50 mmole, 5.8 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | THF | 50 ml | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 55 mmole, 1.6 M, 34.3 ml | C(CCC)[Li]
reactant | 6,6-pentamethylenefulvene | 46 mmole, 6.7 g | C1CCC(=C2C=CC=C2)CC1 | C11H14
solvent | water | 1 ml | O | H2O
product | 1-cyclopentadienyl-1-indenylcyclohexane | 8.3 g, yield=69% | C1(C=CC=C1)C1(CCCCC1)C1C=CC2=CC=CC=C12 | C20H22
